US08049013B2
3-(2-Bromo-thiazol-4-yl)-acrylic acid
Dissolve 3-(2-bromo-thiazol-4-yl)-acrylic acid methyl ester (5.9 g, 23.78 mmol) in tetrahydrofuran (48 mL) and add a solution of lithium hydroxide (636 mg, 26.16 mmol) in water (10 mL). Stir the mixture overnight. Extract the mixture with ethyl acetate and wash twice with water. Acidify the aqueous layer with 1N HCl in water until the mixture is at pH 3-4. Filter the resulting white solid, then wash the solid with ethyl acetate, followed by diethyl ether and then water. Dry the white solid to give 5.05 g (91%) of the desired material.

reactant | 3-(2-bromo-thiazol-4-yl)-acrylic acid methyl ester | 23.78 mmol, 5.9 g | COC(C=CC=1N=C(SC1)Br)=O | C7H6BrNO2S
reactant | lithium hydroxide | 26.16 mmol, 636 mg | [OH-].[Li+]
solvent | tetrahydrofuran | 48 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 3-(2-Bromo-thiazol-4-yl)-acrylic acid | 5.05 g, 91% | BrC=1SC=C(N1)C=CC(=O)O | C6H4BrNO2S
